US09085583B2
To a solution of Raney Ni (0.8 g) in methanol/tetrahydrofuran (72 mL, 1/1) was added 4-ethyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (1.20 g, 7.40 mmol), triethylamine (1.50 g, 14.80 mmol) and di-tert-butyl dicarbonate (1.94 g, 8.88 mmol). The reaction mixture was stirred at 23° C. under hydrogen pressure (1 atm) for 20 hr. The reaction mixture was filtered through Celite. The filtrate was diluted with ethyl acetate, washed with brine and dried over anhydrous sodium sulfate. The solvent was then removed under vacuum to afford crude tert-butyl((4-ethyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate (1.46 g, 71.2%) as a white solid for the next step.

reactant | 4-ethyl-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 7.40 mmol, 1.20 g | C(C)C1=C(C(NC(=C1)C)=O)C#N | C9H10N2O
reactant | triethylamine | 14.80 mmol, 1.50 g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl dicarbonate | 8.88 mmol, 1.94 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol tetrahydrofuran | 72 mL | CO.O1CCCC1
catalyst | Ni | 0.8 g | [Ni] | Ni
product | tert-butyl((4-ethyl-6-methyl-2-oxo-1,2-dihydropyridin-3-yl)methyl)carbamate | 1.46 g, 71.2% | C(C)(C)(C)OC(NCC=1C(NC(=CC1CC)C)=O)=O | C14H22N2O3
